US05837702
A. [N-(3-Furanylmethyl)-N-phenylamine
A mixture of aniline (1.89 g, 19.6 mmol) and 3-furaldehyde (2.50 g, 26.8 mmol) in 1,2-dichloroethane (100 mL) under argon at 5° was treated with sodium triacetoxyborohydride (5.65 g, 26.8 mmol) and acetic acid (1.5 mL). The reaction mixture was stirred at room temperature overnight, concentrated in vacuo and the residue was diluted with ethyl acetate. The combined extracts were washed with satuirated sodium bicarbonate, dried over MgSO4 and concentrated. The product was purified by flash chromatography on silical gel (Hexane/EtOAc (20:1) to yield the title compound (3.31 g, 98%). Analysis calculated for C11H11NO: C, 76.28; H, 6.40; N, 8.09. Found: C, 76.58; H, 6.46; N, 8.33.

reactant | aniline | 19.6 mmol, 1.89 g | NC1=CC=CC=C1 | C6H7N
reactant | 3-furaldehyde | 26.8 mmol, 2.50 g | O1C=C(C=C1)C=O | C5H4O2
reactant | sodium triacetoxyborohydride | 26.8 mmol, 5.65 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | N-(3-Furanylmethyl)-N-phenylamine | 3.31 g, 98% | O1C=C(C=C1)CNC1=CC=CC=C1 | C11H11NO
